US04363651
15.4 parts of 3-trifluoromethylbenzoyl fluoride are added to a stirred mixture of 13.3 parts of 6-methylanthranilic acid and 16.3 parts of tri-n-butylamine in 250 parts of 1,2-dichloropropane at 20°-25° C., and stirring is continued for 20 minutes. The precipitate formed is filtered off and washed with 1 N hydrochloric acid and then with water; the organic filtrate is washed similarly, dried and evaporated down. 27 parts of N-(3'-trifluoromethylbenzoyl)-6-methylanthranilic acid, of melting point 198°-204° C., are obtained.

reactant | 3-trifluoromethylbenzoyl fluoride | FC(C=1C=C(C(=O)F)C=CC1)(F)F | C8H4F4O
reactant | 6-methylanthranilic acid | CC=1C=CC=C(C1C(=O)O)N | C8H9NO2
reactant | tri-n-butylamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 1,2-dichloropropane | ClCC(C)Cl | C3H6Cl2
product | N-(3'-trifluoromethylbenzoyl)-6-methylanthranilic acid | FC(C=1C=C(C(=O)NC=2C(C(=O)O)=C(C=CC2)C)C=CC1)(F)F | C16H12F3NO3
